US07098222B2
2-(5-Chloro-1-methyl-3-phenyl-1H-pyrazol-4-yl)-6-[2-((2R)-2-methyl-pyrrolidin-1-yl)-ethyl]-quinoline
The title compound was prepared using the procedure described in Example 1G using 1-(5-chloro-1-methyl-3-phenyl-1H-pyrazol-4-yl)-ethanone for 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone. 1H NMR (300 MHz, CDCl3) δ 1.15 (d, J=6.10 Hz, 3H), 1.48 (m, 1H), 1.78 (m, 2H), 1.96 (m, 1H), 2.27 (q, J=8.59 Hz, 1H), 2.41 (m, 2H), 3.03 (m, 2H), 3.15 (m, 1H), 3.31 (m, 1H), 3.99 (s, 3H), 7.26 (m, 4H), 7.46 (m, 2H), 7.62 (m, 2H), 8.00 (d, J=8.48 Hz, 1H), 8.05 (d, J=8.14 Hz, 1H); MS (DCI-NH3) [M+H]+ at 431.

reactant | 1-(5-chloro-1-methyl-3-phenyl-1H-pyrazol-4-yl)-ethanone | ClC1=C(C(=NN1C)C1=CC=CC=C1)C(C)=O | C12H11ClN2O
reactant | 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone | CC=1N=C(SC1C(C)=O)C=1SC=CC1 | C10H9NOS2
reactant | NH3 | N | H3N
product | 2-(5-Chloro-1-methyl-3-phenyl-1H-pyrazol-4-yl)-6-[2-((2R)-2-methyl-pyrrolidin-1-yl)-ethyl]-quinoline | ClC1=C(C(=NN1C)C1=CC=CC=C1)C1=NC2=CC=C(C=C2C=C1)CCN1[C@@H](CCC1)C | C26H27ClN4
